US08242280B2
To a mixture of 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine (0.3 g, 0.62 n mmol) and 1-(3-bromo-phenyl)-butane-1(S),2(S)-diol (0.152 g, 0.62 mmol) in a 20 mL microwave reaction flask was added THF (3 mL), acetonitrile (3 mL), and sodium carbonate (1 N in water, 3 mL, 6 n mmol). The resulting suspension was purged with nitrogen for 1 minute. Dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct (22 mg, 27 μmol) was added and the purging was continued for another minute. The flask was sealed and irradiated in a microwave reactor to 90° C. for 10 minutes. The reaction mixture was neutralized to pH 7 using 1 N hydrochloric acid, extracted with ethyl acetate (10 mL×3). The combine organic layers were dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography on silica gel using a gradient of ethyl acetate in hexane to afford 1-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-butane-1,2-diol as a off white solid (171 mg, 53%). MS: m/z 520 (M+H+).

reactant | 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | 0.3 g | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)COCC[Si](C)(C)C | C25H36BN3O4Si
reactant | 1-(3-bromo-phenyl)-butane-1(S),2(S)-diol | 0.62 mmol, 0.152 g | BrC=1C=C(C=CC1)[C@@H]([C@H](CC)O)O | C10H13BrO2
reactant | sodium carbonate | 1 N, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
catalyst | Dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct | 27 μmol, 22 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-butane-1,2-diol | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)C=2C=C(C=CC2)C(C(CC)O)O)COCC[Si](C)(C)C | C29H37N3O4Si
